US07550479B2
D-Tryptophan (50.0 kg, 245 mol) was Suspended in MeOH (270 L), then added to a prepared solution of SOCl2 (67.0 kg, 563 mol) in MeOH (250 L) at ambient temperature under a nitrogen (N2) atmosphere. The resulting solution was stirred at reflux for 1 to 2 hours, then MeOH was distilled from the reaction mixture to about 50% of original volume. Methyl t-butyl ether (MTBE) (350 L) was added, and the solution was cooled to 0° to 5° C., with continued stirring for 1 hour. The product was filtered, washed with cold MTBE (150 L), and dried in vacuum at 60° C. to yield 57.6 kg (92.4%) of D-tryptophan methyl ester hydrochloride. 1H NM (400 MHz DMSO) δ: 11.15 (1H, s), 8.70 (2H, exch.), 7.50 (1H, d, J=8.2 Hz), 7.35 (1H, d, J=8.2 Hz), 7.24 (1H, s), 7.08-7.05 (1H, m), 7.00-6.97 (1H, m), 4.18-4.16 (1H, m), 3.61 (3H, s), 3.36-3.25 (2H, m). HPLC Details: Column: SB-Phenyl 4.6×250 mm; Eluent: Isocratic 80% (H2O+0.1% TFA)/20% ACN (acetonitrile); Temperature: 40° C.; Flow Rate=1 mL/min; UV Detection=285 nm; Injection Volume=20 μL; Diluent=1:1 ACN/H2O; and Retention Time=10.0 min.

reactant | D-Tryptophan | 245 mol, 50.0 kg | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | SOCl2 | 563 mol, 67.0 kg | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 270 L | CO | CH4O
reactant | MeOH | 250 L | CO | CH4O
product | D-tryptophan methyl ester hydrochloride | 57.6 kg, 92.4% | Cl.COC([C@H](N)CC1=CNC2=CC=CC=C12)=O | InChI=1S/C12H14N2O2.ClH/c1-16-12(15)10(13)6-8-7-14-11-5-3-2-4-9(8)11;/h2-5,7,10,14H,6,13H2,1H3;1H/t10-;/m1./s1
